US06465467B1
2-(4-Chlorophenoxy)ethyl 3-(1,4-diazepan-1-yl)-2-pyrazinyl Ether
The title compound was prepared according to the procedure described in Example 4, Step 2, starting from 2-chloro-3-[2-(4-chlorophenoxy)ethoxy]pyrazine* (150 mg, 0.53 mmol) and homopiperazine (287 mg, 2.87 mmol) with the exception that a final extraction step between EtOAc and 5% aqueous NaOH was carried out. This gave 128 mg (69%) of the title product. HRMS m/z calcd for C17H2IClN4O2(M)+ 348.1353, found 348.1353. Anal. (C17H21ClN4O2) C, H, N.

reactant | 2-chloro-3-[2-(4-chlorophenoxy)ethoxy]pyrazine | ClC1=NC=CN=C1OCCOC1=CC=C(C=C1)Cl | C12H10Cl2N2O2
reactant | homopiperazine | 2.87 mmol, 287 mg | N1CCNCCC1 | C5H12N2
product | 2-(4-Chlorophenoxy)ethyl 3-(1,4-diazepan-1-yl)-2-pyrazinyl Ether | N1(CCNCCC1)C=1C(=NC=CN1)OCCOC1=CC=C(C=C1)Cl | C17H21ClN4O2
